US07268152B2
4-(2,3-Dihydrobenzofur-7-yl)-1,1,1-trifluoro-4-methyl-2-pentanone (1.00 g) was treated with NaOH (3.6 mL, 4 M in ethanol-water (2:1)) at room temperature. The mixture was heated to 80° C. for 1 hour. After the mixture had been cooled to room temperature, 20 mL of ethyl acetate, and approximately 15 mL of 2 M HCl were added. The organic phase was separated and the aqueous layer was extracted with three 20 mL portions of ethyl acetate. The combined organic phases were dried over magnesium sulfate. The solvent was removed to yield 800 mg (99%) of 3-(2,3-dihydrobenzofur-7-yl)-3-methylbutanoic acid as an orange-brown solid.

reactant | 4-(2,3-Dihydrobenzofur-7-yl)-1,1,1-trifluoro-4-methyl-2-pentanone | 1.00 g | O1CCC2=C1C(=CC=C2)C(CC(C(F)(F)F)=O)(C)C | C14H15F3O2
reactant | NaOH | 4 M, 3.6 mL | [OH-].[Na+]
reactant | HCl | 2 M, approximately 15 mL | Cl | ClH
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-(2,3-dihydrobenzofur-7-yl)-3-methylbutanoic acid | 800 mg, 99% | O1CCC2=C1C(=CC=C2)C(CC(=O)O)(C)C | C13H16O3
